US09290517B2
(3R,3aR,6R,6aR)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol
LiOH (1.3 ml, 3.90 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (107.7 mg, 0.132 mmol) were added to a stirred solution of (3R,3aR,6R,6aR)-6-[5-(4-bromophenyl)-6-chloro-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol (776.2 mg, 1.332 mmol) and phenylboronic acid (201.9 mg, 1.656 mmol) in dioxane (10.5 ml) and water (1.3 ml). The reaction mixture was degassed (3×) and placed under nitrogen before being heated to 80° C. for 20 h. The reaction mixture was cooled to room temperature and partitioned between EtOAc (100 ml) and water (100 ml). The aqueous layer was extracted with EtOAc (2×50 ml). The organic layers were combined, washed with brine (1×30 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give an amber residue. This material was purified by flash chromatography, utilizing a 40 g silica RediSep Rf® column and employing a 0-70% EtOAc/hexane gradient followed by 70% EtOAc/hexane. The product fractions were combined, evaporated under reduced pressure, and lyophilized from ethanol and benzene to give the title compound as a yellow solid. LC-MS: calculated for C30H34ClN3O5Si 579.2 observed m/e: 580.24 (M+H)+ (Rt 1.36/2 min).

reactant | LiOH | 3.90 mmol, 1.3 ml | [Li+].[OH-]
reactant | (3R,3aR,6R,6aR)-6-[5-(4-bromophenyl)-6-chloro-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | 1.332 mmol, 776.2 mg | BrC1=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)Cl | C24H29BrClN3O5Si
reactant | phenylboronic acid | 1.656 mmol, 201.9 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | dioxane | 10.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 1.3 ml | O | H2O
product | (3R,3aR,6R,6aR)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C30H34ClN3O5Si
